US06291511B1
Step C: N-(Benzenesulfonyl)-(L)-prolyl-2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester.
To an ice cooled solution of 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester hydrochloride (116 mg, 0.34 mmol), N-(benzenesulfonyl)-(L)-proline (128 mg, 0.50 mmol), HOBt (77 mg, 0.5 mmol) and N-methylmorpholine (55 μL, 0.5 mmol) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 99 mg, 0.5 mmol). After stirring overnight, the solvents were removed by rotoevaporation, and the residue was dissolved in methylene chloride and loaded onto a flash silica gel chromatography column. The product was eluted with 10% ethyl acetate in methylene chloride to yield 163 mg (85% yield) of the title compound.

reactant | 2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester hydrochloride | 0.34 mmol, 116 mg | Cl.N[C@H](C(=O)OC)[C@H](C)C1=CC=C(C=C1)I
reactant | N-(benzenesulfonyl)-(L)-proline | 0.50 mmol, 128 mg | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H13NO4S
reactant | HOBt | 0.5 mmol, 77 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.5 mmol, 55 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.5 mmol, 99 mg | Cl.CN(CCCN=C=NCC)C
product | N-(Benzenesulfonyl)-(L)-prolyl-2(S)-amino-3(R)-(4-iodophenyl)-butyric acid, methyl ester | 163 mg, 85% yield | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)[C@](C(=O)OC)([C@H](C)C2=CC=C(C=C2)I)N)CCC1 | C22H25IN2O5S
